US08067445B2
Step 1: 3,5-Dichlorobenzyl Chloroformate
To 3,5-dichlorobenzyl alcohol (0.201 g, 1.06 mmol) in CH2Cl2 (0.5 mL) was added phosgene (20% in toluene; 0.42 mL, 0.79 mmol), and the mixture was stirred at room temperature for 30 minutes to give the title compound, which was used directly in the next step.

reactant | 3,5-dichlorobenzyl alcohol | 1.06 mmol, 0.201 g | ClC=1C=C(CO)C=C(C1)Cl | C7H6Cl2O
reactant | phosgene | 0.79 mmol, 0.42 mL | C(=O)(Cl)Cl | CCl2O
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3,5-Dichlorobenzyl Chloroformate | ClC(=O)OCC1=CC(=CC(=C1)Cl)Cl | C8H5Cl3O2
